US07229999B2
3′-(4-Chloro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide
The title compound was synthesized in analogy to Example 74, using 5-bromo-6-chloro-nicotinic acid methyl ester, piperidine, (4-chloro-phenyl)-boronic acid and (1R,2R)-2-amino-cyclohexanol hydrochloride as starting materials to yield 3′-(4-chloro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide. MS (ISP) 414.4 (M+H)+.

reactant | 5-bromo-6-chloro-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | (4-chloro-phenyl)-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | (1R,2R)-2-amino-cyclohexanol hydrochloride | Cl.N[C@H]1[C@@H](CCCC1)O
product | 3′-(4-chloro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide | O[C@H]1[C@@H](CCCC1)NC(=O)C=1C=C(C(=NC1)N1CCCCC1)C1=CC=C(C=C1)Cl | C23H28ClN3O2
